US06436866B1
The reaction between anisole and acetic anhydride was performed in substantially the same manner as in Example 49, except that each of the compounds as synthesized in Examples 42 and 43 was individually used as the Lewis acid catalyst. The yields of the reaction product (i.e., p-methoxyacetophenone) are shown in Table 2.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | p-methoxyacetophenone | COC1=CC=C(C=C1)C(C)=O | C9H10O2
